US06531502B1
A mixture of 2-oxindole (133 mg), indole-2-carbaldehyde (174 mg) (prepared according to Synthetic Communications, 1993, 23, 3109) and piperidine (10 mg) in ethanol was held in a sealed tube at 95° C. for 4 hours. The mixture was cooled to room temperature. The solid was collected by vacuum filtration, washed with cold ethanol and dried in a vacuum oven to give 3-(1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one.

reactant | 2-oxindole | 133 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | indole-2-carbaldehyde | 174 mg | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | piperidine | 10 mg | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 3-(1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one | N1C(=CC2=CC=CC=C12)C=C1C(NC2=CC=CC=C12)=O | C17H12N2O
